US07728025B2
(Step 5) Production of 1-(2-(5-amino-2-(4-fluoro-phenoxy)-4-nitro-phenyl)-piperidin-1-yl)-ethanone
64 mg of potassium nitrate was added to a trifluoroacetic acid (1 ml) solution of 190 mg of 1-(2-(5-amino-2-(4-fluoro-phenoxy)-phenyl)-piperidin-1-yl)-ethanone, and the reaction liquid was stirred overnight at room temperature. Aqueous saturated sodium bicarbonate was added to the reaction liquid to neutralize it, and then extracted with ethyl acetate. The organic layer was washed with saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1) to obtain the entitled compound as a yellow solid.

reactant | potassium nitrate | 64 mg | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(2-(5-amino-2-(4-fluoro-phenoxy)-phenyl)-piperidin-1-yl)-ethanone | 190 mg | NC=1C=CC(=C(C1)C1N(CCCC1)C(C)=O)OC1=CC=C(C=C1)F | C19H21FN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(2-(5-amino-2-(4-fluoro-phenoxy)-4-nitro-phenyl)-piperidin-1-yl)-ethanone | NC=1C(=CC(=C(C1)C1N(CCCC1)C(C)=O)OC1=CC=C(C=C1)F)[N+](=O)[O-] | C19H20FN3O4
